US08349880B2
N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(4-(2,2,2-trifluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (2.02 g, 3.54 mmol), sodium iodide (2.65 g, 17.7 mmol), and diisoproplylethylamine (0.618 mL, 3.54 mmol) in acetone (25 mL) was heated in a sealed vessel at 100° C. for 4 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (50% EtOAc/chloroform) to afford 281 mg (15% yield) of the titled compound as an off-white solid. LC-MS (M+H)+ 533.2. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.51 (d, J=1.5 Hz, 1H), 7.41 (d, J=2.4 Hz, 1 H), 7.14 (m, J=8.9 Hz, 2 H), 7.09 (d, J=8.5 Hz, 1 H), 7.02 (d, J=1.5 Hz, 1 H), 6.95 (m, J=8.9 Hz, 2 H), 6.84 (dd, J=8.5, 2.1 Hz, 1 H), 6.66 (s, 1 H), 4.36 (q, J=8.1 Hz, 2 H), 4.20-4.27 (m, 3 H), 3.80 (s, 3 H), 2.16-2.29 (m, 1H), 2.05-2.13 (m, 1 H), 1.92-2.03 (m, 2 H), 1.83-1.90 (m, 2 H).

reactant | 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 3.54 mmol, 2.02 g | ClCCCCC(C1=CC=C(C=C1)OCC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C25H25Cl2F3N6O2
reactant | sodium iodide | 17.7 mmol, 2.65 g | [I-].[Na+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(4-(2,2,2-trifluoroethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 281 mg, 15% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)OCC(F)(F)F)=N1)OC | C25H24ClF3N6O2
